US08202873B2
3′-(4-Fluorophenyl)-4-[2-(1,3,5-triethyl-1H-pyrazol-4-yl)-ethyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride
Combine (1,3,5-triethyl-1H-pyrazol-4-yl)-acetaldehyde (0.16 g, 0.82 mmol) and 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.24 g, 0.91 mmol) in DCM (10 mL) and stir at room temperature for 15 min. Then add glacial acetic acid (0.07 mL, 1.23 mmol) and sodium triacetoxyborohydride (0.26 g, 1.23 mmol) and stir for 3 hr. at room temperature. Purify using SCX chromatography and further purify using silica gel chromatography (5% 7 M ammonia in methanol/DCM). Dissolve the free base in methanol (5 mL) and treat with ammonium chloride (0.037 g). Concentrate the resulting solution to give the title compound (0.032 g, 83%). MS: m/z=437.3[M+H]+.

reactant | (1,3,5-triethyl-1H-pyrazol-4-yl)-acetaldehyde | 0.82 mmol, 0.16 g | C(C)N1N=C(C(=C1CC)CC=O)CC | C11H18N2O
reactant | 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.91 mmol, 0.24 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | acetic acid | 1.23 mmol, 0.07 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.23 mmol, 0.26 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3′-(4-Fluorophenyl)-4-[2-(1,3,5-triethyl-1H-pyrazol-4-yl)-ethyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride | 0.032 g, 83% | Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CCC=1C(=NN(C1CC)CC)CC | InChI=1S/C25H33FN6.ClH/c1-4-22-21(23(5-2)32(6-3)29-22)11-14-30-15-17-31(18-16-30)25-24(27-12-13-28-25)19-7-9-20(26)10-8-19;/h7-10,12-13H,4-6,11,14-18H2,1-3H3;1H
